.SUBCKT gf180mcu_fd_sc_mcu9t5v0__oai222_2 A1 A2 B1 B2 C1 C2 ZN VDD VDD VSS VSS
*.PININFO A1:I A2:I B1:I B2:I C1:I C2:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!(((A1 + A2) * (B1 + B2)) * (C1 + C2))
M_i_4_1 net_1 C1 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_1 VSS C2 net_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_0 net_1 C2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_0 VSS C1 net_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0 net_1 B1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_0 net_0 B2 net_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_1 net_1 B2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_1 net_0 B1 net_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_0 ZN A1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_0 net_0 A2 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_1 ZN A2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_1 net_0 A1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_10_1 net_4_1 C1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_1 VDD C2 net_4_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_0 net_4_0 C2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_10_0 ZN C1 net_4_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_0 net_3_1 B1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_0 VDD B2 net_3_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_1 net_3_0 B2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_1 ZN B1 net_3_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_0 net_2_1 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_0 VDD A2 net_2_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_1 net_2_0 A2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_1 ZN A1 net_2_0 VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
